US05869485
5-(3-Methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine
0.8 g of 5-(3-methoxyphenyl)-7-[3-(2-chloro-1-ethoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine and 0.24 g of sodium imidazole are heated to 80° C. in 20 ml of DMF and stirred for 5 h. The mixture is then cooled to RT and treated with water, extracted 3 times with methylene chloride and concentrated. After chromatography on silica gel using methylene chloride/methanol 15:2 and crystallization from ether/methylene chloride, 5-(3-methoxy-phenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine having an m.p. of 138°-140° C. is obtained.

reactant | 5-(3-methoxyphenyl)-7-[3-(2-chloro-1-ethoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine | 0.8 g | COC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCCl | C21H19ClN4O2
reactant | sodium imidazole | 0.24 g | N1C=NC=C1.[Na]
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-(3-Methoxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine | COC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2 | C24H22N6O2
